### PR TITLE
[Merged by Bors] - feat: a non-singular Killing form remains non-singular when restricted to a Cartan subalgebra

### PR DESCRIPTION
**Pull request by ocfnash**
They key addition is the lemma `LieAlgebra.IsKilling.ker_restrictBilinear_of_isCartanSubalgebra_eq_bot`.

---

- [x] depends on: #7608

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Killing.lean [hunk 1]
```diff
@@ -59,6 +60,7 @@ lemma traceForm_comm (x y : L) : traceForm R L M x y = traceForm R L M y x :=
 @[simp] lemma traceForm_flip : (traceForm R L M).flip = traceForm R L M :=
   Eq.symm <| LinearMap.ext₂ <| traceForm_comm R L M
 
+/-- See also `LieModule.traceForm_apply_lie_apply'`. -/
```
Comment (sgouezel) [inline Mathlib/Algebra/Lie/Killing.lean:63]: A docstring should first explain the content of the lemma. Once this is done, it's fine to add references to other lemmas, but without that the docstring would be weird when hovering over the lemma.

File: Mathlib/Algebra/Lie/Killing.lean [hunk 2]
```diff
@@ -26,12 +27,12 @@ We define the trace / Killing form in this file and prove some basic properties.
  * `LieModule.traceForm_eq_zero_of_isNilpotent`
  * `killingForm`
  * `LieAlgebra.IsKilling`
+ * `LieAlgebra.IsKilling.ker_restrictBilinear_of_isCartanSubalgebra_eq_bot`
  * `LieAlgebra.IsKilling.isSemisimple`
```
Comment (sgouezel) [inline Mathlib/Algebra/Lie/Killing.lean:31]: could you expand these, by explaining quickly what each definition or theorem is saying?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/Algebra/Lie/Killing.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Killing.lean:31]: Good point, done!

File: Mathlib/Algebra/Lie/Killing.lean [hunk 3]
```diff
@@ -183,15 +233,43 @@ class IsKilling : Prop :=
...
+    [IsNoetherian R L] [IsArtinian R L] (H : LieSubalgebra R L) [H.IsCartanSubalgebra] :
+    LinearMap.ker (H.restrictBilinear (killingForm R L)) = ⊥ := by
+  have h : Codisjoint (rootSpace H 0) (LieModule.posFittingComp R H L) :=
+    (LieModule.isCompl_weightSpace_zero_posFittingComp R H L).codisjoint
+  replace h : Codisjoint (H : Submodule R L) (LieModule.posFittingComp R H L : Submodule R L) := by
+    rwa [codisjoint_iff, ← LieSubmodule.coe_toSubmodule_eq_iff, LieSubmodule.sup_coe_toSubmodule,
+      LieSubmodule.top_coeSubmodule, rootSpace_zero_eq R L H, LieSubalgebra.coe_toLieSubmodule,
+      ← codisjoint_iff] at h
+  suffices : ∀ m₀ ∈ H, ∀ m₁ ∈ LieModule.posFittingComp R H L, killingForm R L m₀ m₁ = 0
+  · simp [LinearMap.ker_restrictBilinear_eq_of_codisjoint h this]
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Killing.lean:258]: Done!

File: Mathlib/Algebra/Lie/Killing.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Killing.lean:63]: Done!

File: Mathlib/Algebra/Lie/Killing.lean [hunk 4]
```diff
@@ -183,15 +233,43 @@ class IsKilling : Prop :=
   /-- We say a Lie algebra is Killing if its Killing form is non-singular. -/
   killingCompl_top_eq_bot : LieIdeal.killingCompl R L ⊤ = ⊥
 
+namespace IsKilling
+
+variable [IsKilling R L]
+
+attribute [simp] killingCompl_top_eq_bot
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Killing.lean:240]: I do wish this to be global but the lemma is a structure field so this is the only way to know to tag it as `simp`. I have moved this statement up to be beside the class definition so that this is clearer.

**Comment by ocfnash** [comment]
bors merge
